US09120749B2
1-(4-((trans-4-aminocyclohexyl)amino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)-2-methylpropan-1-one
Following general procedure A-2, tert-butyl (trans-4-((6-(3-chloro-4-hydroxy-5-methoxyphenyl)-3-isobutyrylquinolin-4-yl)amino)cyclohexyl)carbamate (0.10 mmol) was reacted with TFA (2 mL) to afford the desired product (16.6 mg, 35% over 2 steps) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 8.96 (s, 1H), 8.34 (d, J=2.1 Hz, 2H), 8.03 (dd, J=8.6, 2.1 Hz, 1H), 7.90 (d, J=8.6 Hz, 1H), 7.28 (d, J=2.2 Hz, 1H), 7.20 (d, J=2.2 Hz, 1H), 4.22-4.13 (m, 1H), 3.98 (s, 3H), 3.81-3.71 (m, 2H), 3.03-2.94 (m, 1H), 2.38-2.32 (d, J=12.6 Hz, 2H), 2.13-2.06 (m, 2H), 1.73-1.61 (q, J=12.5 Hz, 2H), 1.50-1.38 (m, 2H), 1.24 (d, J=6.7 Hz, 6H). ESI MS m/z 468 [C26H30ClN3O3+H]+; HPLC>99% (AUC), tR=11.34 min.

reactant | tert-butyl (trans-4-((6-(3-chloro-4-hydroxy-5-methoxyphenyl)-3-isobutyrylquinolin-4-yl)amino)cyclohexyl)carbamate | 0.10 mmol | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C31H38ClN3O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-((trans-4-aminocyclohexyl)amino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)-2-methylpropan-1-one | 16.6 mg, 35% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)O)Cl)C(C(C)C)=O | C26H30ClN3O3
